US08871668B2
Water (0.25 ml) was added to the silica gel supporting scandium produced in Example 1 (75 mg), and while stirring, benzaldehyde (0.125 mmol) and o-anisidine (0.125 mmol) and 1-cyclohexenyloxytrimethylsilane (0.25 mmol) were continuously added. The mixture was stirred at room temperature for 24 hours. The mixture was extracted four times by a decantation method using a mixture of ethyl acetate-hexane (1:1), the solvent was distilled off under reduced pressure, and then the residue was purified by silica gel thin layer chromatography, to obtain the target product, 2-(phenyl-N-(2-methoxyphenyl)aminomethyl)cyclohexanone at a syn/anti ratio of 53/47. Yield 92%.

reactant | benzaldehyde | 0.125 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | o-anisidine | 0.125 mmol | COC=1C(=CC=CC1)N | C7H9NO
reactant | 1-cyclohexenyloxytrimethylsilane | 0.25 mmol | C1(=CCCCC1)O[Si](C)(C)C | C9H18OSi
catalyst | scandium | 75 mg | [Sc] | Sc
solvent | Water | 0.25 ml | O | H2O
product | 2-(phenyl-N-(2-methoxyphenyl)aminomethyl)cyclohexanone | Yield 92% | C1(=CC=CC=C1)C(C1C(CCCC1)=O)NC1=C(C=CC=C1)OC | C20H23NO2
